Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Fluoxetine Analogues
 
Attending: ___.
 
Chief Complaint:
"I had a great life until I started drinking 2
weeks ago."

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year-old man with mild pervasive
developmental disorder and bipolar disorder in addition to
diagnoses of OCD, Tourette's syndrome, anxiety, and ADHD who
presents after 2 weeks of binge drinking and stopping his
medications.  He is BIBA after increased aggressive behavior,
increasing homicidal thoughts, and decompensation of his OCD.

He reports that he ordinarily does very well when he takes his
medications but that he stopped because "I thought I didn't need
them anymore."  He now describes feeling increasingly angry
toward women in all settings, as well as all couples, because he
knows that girls would reject him.  "I just want them to go out
with me."
 
Past Medical History:
asthma
s/p cholecystectomy
 
Social History:
___
Family History:
Grandfather alcoholic, sister uses cocaine.  Otherwise denies
psychiatric illness in the family.
 
Brief Hospital Course:
Psychiatric:
Patient was restarted on Abilify at 15 mg daily on admission, 
with thorazine available PRN.  Pt had responded well to Haldol 
in the Emergency department.  This was added at 5 mg bid on ___ 
along with cogentin 1 mg bid; pt tolerated this well and 
appeared calmer.  Because of history of problems with med 
compliance, Haldol decanoate was suggested and pt was willing to 
comply.  He was given a first injection of 100 mg on ___.  PO 
Haldol 5 mg daily was continued at discharge with plan to 
continue it for 30 days while decanoate gets up to target level. 
 Trial of clomipramine to target OCD symptoms was discussed as 
an alternative to Haldol.  This can be reconsidered by his 
outpatient treaters. 

Psychological testing was attempted because of pt's numerous 
past diagnoses, however pt was overwhelmed by the number of 
questions and sustained attention required to complete the 
assessment, so testing was not pursued further.  

Psychosocial: 
Pt was perseverative on a number of themes: his HbA1C, the 
question of whether he would be kicked out of his living 
situation, and not being allowed to listen to his iPod because 
of safety rules regarding cords. He repeatedly expressed his 
commitment to quit drinking and to take his medications.  A 
meeting was held on ___ with staff from Side By Side, the 
agency which runs his housing program. Pt again stated his 
intention to remain sober and comply with medications. Per staff 
at his housing, he has repeatedly made such statements in the 
past.  They were concerned that compliance would continue to be 
an issue.  Suggestion was made to have a ___ agency come in to 
administer meds.  Only one local agency was possible with pt's 
insurance; nursing and social work staff had left numerous 
messages for them with no response.  Despite lack of ___ 
services, Side by Side and Deac-4 staff all felt that pt would 
not be well-served by extending his admission, since the milieu 
and lack of usual surroundings and coping mechanisms were 
causing increased anxiety and agitation.  He was discharged home 
with the clear understanding that any non-compliance or drinking 
would result in an immediate trip back to the hospital. Pt was 
looking forward to intake and participation at a partial 
hospital program at ___ starting day after discharge.

Behavior: 
Pt was somewhat intrusive at times on the unit but responded to 
redirection.  Overall, he remained in good behavioral control. 

Medical:
Pt was observed to have mild gynecomastia.  Prolactin was 
checked (given history of antipsychotic use) and was low at 1.6. 
 He is tall with slender body habitus and question of 
Klinefelter's syndrome was raised.  It was unknown whether pt 
had been karyotyped in the past, and diagnosis of Klinefelter's 
would not have changed management, so this was not pursued 
further.

Pt complained of shoulder pain on ___, which he said was worse 
with inspiration.  Physical exam was normal.  He was prescribed 
Advil and used prn valium with only modest relief.  Pain 
subsided by the following day and did not recur.   

Legal: ___
Safety: Patient was on 15 minute checks throughout his stay. 

 
Medications on Admission:
Abilify 20mg QAM/10mg QHS
Wellbutrin SR 150 QD
Chlorpromazine 25mg TID, + 25mg QD as needed
 
Discharge Medications:
1. Aripiprazole 15 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. Chlorpromazine 25 mg Tablet Sig: Two (2) Tablet PO q 6 hrs 
prn as needed for agitation.
Disp:*90 Tablet(s)* Refills:*0*
3. Zolpidem 10 mg Tablet Sig: One (1) Tablet PO QHS prn as 
needed for insomnia.
Disp:*30 Tablet(s)* Refills:*0*
4. Benztropine 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): ___ take additional 1 tablet up to two times daily as 
needed for muscle stiffness.
Disp:*90 Tablet(s)* Refills:*0*
5. Haloperidol 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
6. Haloperidol Decanoate 100 mg/mL Solution Sig: One Hundred 
(100) mg Intramuscular once a month for 1 doses: First dose 
given ___.
Disp:*1 vial* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: bipolar disorder, OCD, EtOH abuse
Axis II: pervasive developmental disorder
Axis III: stable
Axis IV: moderate
Axis V:
Axis I: PDD NOS, OCD, ADHD, Alcohol abuse
Axis II: Deferred
Axis III: None active
Axis IV: Social stressors, difficulty forming relationships
Axis V: 30

 
Discharge Condition:
O: VS: afebrile  BP 135/77  P 68  RR 18  O2 100%

MSE:
Appearance: Tall, thin, young caucasian male, apparent slight 
gynecomastia, slightly feminine appearance.
Behavior: Sitting in chair, good eye contact, no abnormal 
movements.
Speech: Normal rate and volume, slightly choppy cadence, not 
pressured.
Affect: tense, but somewhat more relaxed than when seen on 
___
Mood: 'Hanging in there'
TC: Very focused on wanting to get home.  Asks multiple times 
for reassurance that he will be going back to Side by Side.  No 
delusions or paranoia.  Pt denies SI and HI.
TP: Perseverative re issues above.  
Percep:  No AH/VH.
Cognition: grossly intact

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___